US05250690
2-(4-((3-Chloro-5-(trifluoromethyl)-2-pyridinyl)oxy)phenoxy)-N-(3,5-dichloro-4-(1,1,2,2-tetrafluoroethoxy)phenyl)propanamide
A solution of 3.5 mmol of 2-(4-((3-chloro-5-(trifluoromethyl)-2-pyridinyl)oxy)phenoxy)propionyl chloride in 15 ml of methylene chloride was added dropwise to an ice-cooled solution prepared from 1.22 g (3.5 mmol) of an 80 percent solution of 3,5-dichloro-4-(1,1,2,2-tetrafluoroethoxy)aniline in DMF, 0.42 g (4.2 mmol) of triethylamine and 40 ml of methylene chloride. The reaction mixture was stirred at room temperature overnight and then poured into a dilute aqueous HCl solution. The organic layer was separated, washed with a saturated aqueous NaHCO3 solution, dried over MgSO4 and evaporated to dryness. The residual material, a gum, was purified by preparative scale liquid chromatography, eluting with an 86:14 hexane:acetone mixture. After removal of the solvent, there was left 1.02 g (47 percent of theoretical) of the above-named product as a light yellow glassy material. The structure of the product was confirmed by its IR and NMR spectrum (NMR Spectrum: (d6 -DMSO); 8.55 (br, m, 1H); 8.45 (br, 1H); 7.9 (s, 2H); 6.6-7.2 (m, 5H); 4.9 (q, 1H); 1.6 (d, 3H). (Compound 2)

reactant | 2-(4-((3-chloro-5-(trifluoromethyl)-2-pyridinyl)oxy)phenoxy)propionyl chloride | 3.5 mmol | ClC=1C(=NC=C(C1)C(F)(F)F)OC1=CC=C(OC(C(=O)Cl)C)C=C1 | C15H10Cl2F3NO3
reactant | 3,5-dichloro-4-(1,1,2,2-tetrafluoroethoxy)aniline | ClC=1C=C(N)C=C(C1OC(C(F)F)(F)F)Cl | C8H5Cl2F4NO
reactant | triethylamine | 4.2 mmol, 0.42 g | C(C)N(CC)CC | C6H15N
reactant | HCl | Cl | ClH
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | DMF | CN(C)C=O | C3H7NO
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 2-(4-((3-Chloro-5-(trifluoromethyl)-2-pyridinyl)oxy)phenoxy)-N-(3,5-dichloro-4-(1,1,2,2-tetrafluoroethoxy)phenyl)propanamide | ClC=1C(=NC=C(C1)C(F)(F)F)OC1=CC=C(OC(C(=O)NC2=CC(=C(C(=C2)Cl)OC(C(F)F)(F)F)Cl)C)C=C1 | C23H14Cl3F7N2O4
